US07915268B2
N-(2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-4-(tetrahydro-2H-pyran-4-ylamino)pyrimidin-5-yl)-2-phenylacetamide.
To the solution of 10 mg (0.030 mmol) 2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-N4-(tetrahydro-2H-pyran-4-yl) pyrimidine-4,5-diamine in 1 mL acetonitrile was added 16 mg (0.12 mmol) of phenylacetic acid and 20 mg (excess) 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride. The solution was stirred for 1 hr at room temperature. Solvent was removed under vacuum and column chromatography with 5% MeOH in DCM provided 10 mg (75%) pale yellow solid as the desired amide.

reactant | 2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-N4-(tetrahydro-2H-pyran-4-yl) pyrimidine-4,5-diamine | 0.030 mmol, 10 mg | FC=1C=CC2=C(N(C=N2)C2=NC=C(C(=N2)NC2CCOCC2)N)C1 | C16H17FN6O
reactant | phenylacetic acid | 0.12 mmol, 16 mg | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 20 mg | Cl.CN(CCCN=C=NCC)C
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | N-(2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-4-(tetrahydro-2H-pyran-4-ylamino)pyrimidin-5-yl)-2-phenylacetamide | 10 mg, 75% | FC=1C=CC2=C(N(C=N2)C2=NC=C(C(=N2)NC2CCOCC2)NC(CC2=CC=CC=C2)=O)C1 | C24H23FN6O2
